US06376672B1
In an analogous manner to that described in (8) 1-chloromethyl-3,5-difluoro-2-methoxy-benzene was reacted with 1-chloro-3-propanol to yield 1-(3-chloro-propoxymethyl)-3,5-difluoro-2-methoxy-benzene as a colorless liquid; MS: 250 (M)+.

reactant | 1-chloro-3-propanol | ClCCCO | C3H7ClO
reactant | 1-chloromethyl-3,5-difluoro-2-methoxy-benzene | ClCC1=C(C(=CC(=C1)F)F)OC | C8H7ClF2O
product | 1-(3-chloro-propoxymethyl)-3,5-difluoro-2-methoxy-benzene | ClCCCOCC1=C(C(=CC(=C1)F)F)OC | C11H13ClF2O2
